US06951868B2
2-Chloro-6-(hydroxymethyl)-4-iodopyridin-3-ol (5.7 g, 20 mmol) is combined with bis (triphenylphosphine) palladium dichloride (1.12 g, 1.6 mmol) in 50 ml DMF under nitrogen. The mixture is treated with tetravinyl tin, is warmed to 60° C. for 6 h followed by 50° C. for 18 h, and at rt for 72 h. The mixture is diluted with 250 ml EtOAc and is extracted with 4×100 ml 2:1:1 water/saturated NaCl/saturated NaHCO3. The organic layer is dried (MgSO4) and is concentrated in vacuo to a yellow oil. The crude material is chromatographed over 200 g SiO2 (230-400 mesh) eluting with 37% EtOAc/hexane. The appropriate fractions are combined and concentrated to afford 1.45 g (39%) of 2-chloro-6-(hydroxymethyl)-4-vinylpyridin-3-ol as a pale yellow solid. MS for C8H8ClNO2 (EI) m/z: 185 (M)+.

reactant | 2-Chloro-6-(hydroxymethyl)-4-iodopyridin-3-ol | 20 mmol, 5.7 g | ClC1=NC(=CC(=C1O)I)CO | C6H5ClINO2
reactant | tetravinyl tin | C(=C)[Sn](C=C)(C=C)C=C
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 250 ml | CCOC(=O)C | C4H8O2
catalyst | bis (triphenylphosphine) palladium dichloride | 1.6 mmol, 1.12 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-chloro-6-(hydroxymethyl)-4-vinylpyridin-3-ol | 1.45 g, 39% | ClC1=NC(=CC(=C1O)C=C)CO | C8H8ClNO2
